US04097674
A mixture of 23 g. of methyl 6-hydroxy-2naphthyl-α-methylacetate, methylacetate, 25 g. of chlorodimethyl ether, and 500 ml. of dimethylformamide is allowed to stand at room temperature for 12 hours. The reaction mixture is evaporated under reduced pressure to give methyl 6-methoxymethyloxy-2-naphthyl-α-methylacetate.

reactant | methyl 6-hydroxy-2naphthyl-α-methylacetate | OC=1C=C2C=CC(=CC2=CC1)C(C(=O)OC)C | C14H14O3
reactant | methylacetate | COC(C)=O | C3H6O2
reactant | chlorodimethyl ether | COCCl | C2H5ClO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | methyl 6-methoxymethyloxy-2-naphthyl-α-methylacetate | COCOC=1C=C2C=CC(=CC2=CC1)C(C(=O)OC)C | C16H18O4
